US04144263
Preparation of α-Carbethoxy-α-diethoxymethyl-β-[3,4-dimethoxyphenyl]propionitrile
A mixture of α-Carbethoxy-β-[3,4-dimethoxyphenyl]propionitrile (10 g) and diethoxymethyl acetate (30 g) was heated at 95° C. for 20 hours. The volatiles were removed under vacuum pump pressure leaving 13.4 g (94%) of a nearly colorless oil which solidified on standing at -5° C. to a white solid, m.p. 62°-65° C.

reactant | α-Carbethoxy-β-[3,4-dimethoxyphenyl]propionitrile | 10 g | C(=O)(OCC)C(C#N)CC1=CC(=C(C=C1)OC)OC | C14H17NO4
reactant | diethoxymethyl acetate | 30 g | C(C)(=O)OC(OCC)OCC | C7H14O4
product | α-Carbethoxy-α-diethoxymethyl-β-[3,4-dimethoxyphenyl]propionitrile | C(=O)(OCC)C(C#N)(CC1=CC(=C(C=C1)OC)OC)C(OCC)OCC | C19H27NO6
